US07544806B2
1-[2-(1-Benzyl-piperidine-4-ylamino)-phenyl]-2-chloro-butan-1-one
(1-Benzyl-piperidine-4-yl)-(4-fluoro-phenyl)-amine (51.2 g) is dissolved in 180 ml benzene and cooled down with an ice bath. Borontrichloride (180 ml, 1 M hexane solution) is added drop wise over 30 min. 2-Chlorbutyronitrile (18.6 g) and aluminiumtrichloride (24.0 g) are added and the resulting mixture is heated under reflux for 15 h. Then the mixture is cooled down, 180 ml of 2N HCl, are added and the mixture is further refluxed. 200 ml Water and 200 ml CH2Cl2 are added and the resulting mixture adjusted to pH=5 with portions of sodium carbonate. The phases are separated, the organic phase is dried with sodium sulphate and the solvent is removed. The resulting oil is purified with flash column chromatography (96:4 CH2Cl2:MeOH). Yield is 20.7 g of a colourless oil.

reactant | (1-Benzyl-piperidine-4-yl)-(4-fluoro-phenyl)-amine | 51.2 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=C1)F | C18H21FN2
reactant | Borontrichloride | 1 M, 180 ml | B(Cl)(Cl)Cl | BCl3
reactant | 2-Chlorbutyronitrile | 18.6 g | ClC(C#N)CC | C4H6ClN
reactant | aluminiumtrichloride | 24.0 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | HCl | 2N, 180 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 180 ml | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 200 ml | O | H2O
product | 1-[2-(1-Benzyl-piperidine-4-ylamino)-phenyl]-2-chloro-butan-1-one | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1)C(C(CC)Cl)=O | C22H27ClN2O
